US08383641B2
4-(3-Fluoro-propyl)-N-[2-methoxy-6-(2-pyrrolidin-1-yl-ethoxy)-pyridin-3-yl]-benzenesulfonamide
After a solution of 2-Methoxy-6-(2-pyrrolidin-1-yl-ethoxy)-pyridin-3-ylamine (200 mg, 0.84 mmol) in pyridine (3 ml) was stirred at room temperature for 30 minutes 4-(3-fluoro-propyl)-benzenesulfonyl chloride (200 mg, 0.84 mmol) was added. The mixture was stirred at room temperature for 16 h, thereafter the solvent was evaporated under reduced pressure. The residue was taken up in toluene and the solvent was evaporated. This procedure was repeated once. The residue was purified by silica gel chromatography with dichloromethane/methanol (100:0; 95:5; 0:100) as eluent to give 20 mg (5.4%) of the title compound.

reactant | 2-Methoxy-6-(2-pyrrolidin-1-yl-ethoxy)-pyridin-3-ylamine | 0.84 mmol, 200 mg | COC1=NC(=CC=C1N)OCCN1CCCC1 | C12H19N3O2
reactant | 4-(3-fluoro-propyl)-benzenesulfonyl chloride | 0.84 mmol, 200 mg | FCCCC1=CC=C(C=C1)S(=O)(=O)Cl | C9H10ClFO2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3-Fluoro-propyl)-N-[2-methoxy-6-(2-pyrrolidin-1-yl-ethoxy)-pyridin-3-yl]-benzenesulfonamide | 20 mg, 5.4% | FCCCC1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC(=CC1)OCCN1CCCC1)OC | C21H28FN3O4S
